US07704997B1
6-Chloro-5-fluoro-2-(2,2,2-trifluoro-ethoxy)-nicotinonitrile
A mixture of 2,6-dichloro-5-fluoro-nicotinonitrile (900 mg, 5.7 mmol), 2,2,2-trifluoro-ethanol (570 mg, 5.7 mmol), and NaH (60%) (273 mg, 6.8 mmol) in N,N-dimethylformamide (15 mL) was heated at 120° C. overnight. The reaction mixture was poured into water, and extracted with ethyl acetate (2×). The solvent was removed to give the title compound (1100 mg, 76%). MS (DCI/NH3) m/z 255 (M)+, 257 (M+2)+.

reactant | 2,6-dichloro-5-fluoro-nicotinonitrile | 5.7 mmol, 900 mg | ClC1=C(C#N)C=C(C(=N1)Cl)F | C6HCl2FN2
reactant | 2,2,2-trifluoro-ethanol | 5.7 mmol, 570 mg | FC(CO)(F)F | C2H3F3O
reactant | NaH | 6.8 mmol, 273 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-5-fluoro-2-(2,2,2-trifluoro-ethoxy)-nicotinonitrile | 1100 mg, 76% | ClC1=NC(=C(C#N)C=C1F)OCC(F)(F)F | C8H3ClF4N2O
